US04470986
A solution of borane-dimethylsulfide (0.83 ml, 7.7 mmol) in 7 ml of tetrahydrofuran is added slowly to a refluxing solution of 4-(3-chloropropyl)-2-cyanopyridine (1.24 g, 6.9 mmol) in 7 ml of tetrahydrofuran while dimethylsulfide simultaneously distills off. The mixture is refluxed for 15 minutes after the addition is complete, cooled to 30° and 6 ml of 6N hydrochloric acid is added. After hydrogen evolution ceases, the mixture is refluxed for 30 minutes, cooled to 0° and saturated with solid sodium carbonate before extracting with methylene chloride (4×50 ml). The organic extracts are dried over sodium sulfate and evaporated to yield an oil which is filtered through 10 g of silica gel (1:1 EtOAc-MeOH) to yield 2-aminomethyl-4-(3-chloropropyl)pyridine as a yellow oil; NMR (CDCl3) 3.55 (t, 2H), 4.20 (s, 2H).

reactant | borane dimethylsulfide | 7.7 mmol, 0.83 ml | B.CSC
reactant | 4-(3-chloropropyl)-2-cyanopyridine | 6.9 mmol, 1.24 g | ClCCCC1=CC(=NC=C1)C#N | C9H9ClN2
reactant | dimethylsulfide | CSC | C2H6S
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-aminomethyl-4-(3-chloropropyl)pyridine | NCC1=NC=CC(=C1)CCCCl | C9H13ClN2
